US05401734
To a suspension of 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate dihydrochloride (syn isomer) (1.35 g) in dichloromethane (5.4 ml) and anisole (1.3 ml) was added dropwise trifluoroacetic acid (4 ml) at 25° C. The stirring was continued for 3 hours at the same temperature. The reaction mixture was poured into diisopropyl ether and the resulting precipitates were collected by filtration. The precipitates were dissolved in water and then adjusted to pH 3.0 with aqueous sodium bicarbonate. The resulting solution was subjected to column chromatography on Diaion HP-20 using 15% aqueous isopropyl alcohol as an eluent. The object fractions were lyophilized to give 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-methyl-4-(3,4dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate (syn isomer) (320 mg).

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-tert-butoxycarbonylmethoxyiminoacetamido]-3-[1-methyl-4-(3,4-dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate dihydrochloride | 1.35 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C)C(=O)[O-])C1=O)=NOCC(=O)OC(C)(C)C
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | dichloromethane | 5.4 ml | ClCCl | CH2Cl2
solvent | anisole | 1.3 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7β-[2-(2-aminothiazol-4-yl)-2-carboxymethoxyiminoacetamido]-3-[1-methyl-4-(3,4dihydroxybenzoyl)-1-piperazinio]methyl-3-cephem-4-carboxylate | 320 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2(CCN(CC2)C(C2=CC(=C(C=C2)O)O)=O)C)C(=O)[O-])C1=O)=NOCC(=O)O | C27H29N7O10S2
